US06248740B1
Production of ethyl 6-chloro-2-methylimidazo[1,2-b]pyridazine-3-carboxylate
12.9 g of 3-amino-6-chloropyridazine was suspended in 250 ml of ethanol; 18.1 g of ethyl 2-chloro-3-oxobutanoate was added, followed by thermal refluxing for 6 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was ajusted to pH 7 by the addition of aqueous sodium bicarbonate; ethyl ether was added; the precipitated was collected by filtration and extracted with ethyl ether; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; ethanol-1 N aqueous solution of sodium hydroxide (1:1) was added; the crystal precipitated was collected by filtration; the filtrate was concentrated again. The residue was crystallized by the addition of ethyl acetate and collected by filtration to yield 3.09 g of the title compound.

reactant | 3-amino-6-chloropyridazine | 12.9 g | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | ethyl 2-chloro-3-oxobutanoate | 18.1 g | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 6-chloro-2-methylimidazo[1,2-b]pyridazine-3-carboxylate | 3.09 g | ClC=1C=CC=2N(N1)C(=C(N2)C)C(=O)OCC | C10H10ClN3O2
